### PR TITLE
feat(GreensOpenProblems): 16

### LINKED ISSUE #1551: Green's Open Problems #16
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.16

What is the largest subset of $[N]$ with no solution to $x + 3y = 2z +2w$ in distinct integers $x, y, z, w$?

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by cyb3r17**
closes #1551

### CODE REVIEW

**Comment by felixpernegger** [comment]
Change title into ```feat(GreensOpenProblems): 16```, compare this with other PRs (sorry I dont have perms to change this)

**Comment by cyb3r17** [comment]
Ah right, forgot about that

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 1]
```diff
@@ -0,0 +1,51 @@
...
+theorem green_16 :
+    answer(sorry) ↔ ∃ f : ℕ → ℕ,
+      (∀ N : ℕ, ∀ A : Finset ℕ,
+        A ⊆ range (N + 1) →
+        SolutionFree A →
+        A.card ≤ f N) ∧
+      (∀ N : ℕ, ∃ A : Finset ℕ,
+        A ⊆ range (N + 1) ∧
+        SolutionFree A ∧
+        A.card = f N) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]: This spelling of the problem is trivial. You need to replace `f` with `answer(sorry)`

Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]: Can you use `MaximalFor SolutionFree Set.ncard (f N)` instead?

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 2]
```diff
@@ -0,0 +1,44 @@
...
+  ∀ x y z w, x ∈ A → y ∈ A → z ∈ A → w ∈ A →
+    ({x, y, z, w} : Finset ℕ).card = 4 →
+    x + 3 * y ≠ 2 * z + 2 * w
+
+/-- What is the largest subset of $[N]$ with no solution to $x + 3y = 2z + 2w$
+in distinct integers $x, y, z, w$? -/
+@[category research open, AMS 5 11]
+theorem green_16 (N : ℕ) :
+    ∃ A : Finset ℕ, A ⊆ range (N + 1) ∧ SolutionFree A ∧
+      A.card = answer(sorry) ∧
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean:47]:
```suggestion
    ∃ A : Finset ℕ, A.card = answer(sorry) ∧
```
`MaximalFor` already does that

**Comment by cyb3r17** [comment]
> Can you add the current best bounds and related conjectures that Ben Green mentions? The question as it stands is most likely unsolvable because it asks for an exact amount. You could add a conjecture for a lower bound of the same shape as the upper bound for example

on it

**Comment by cyb3r17** [comment]
I've marked Zhao's reference as personal communication with Green, I'm not sure how else to reference it. Please do let me know if anymore corrections are required

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 3]
```diff
@@ -32,12 +36,55 @@ def SolutionFree (A : Finset ℕ) : Prop :=
...
+theorem green_16_conjectured_lower_bound :
+    ∃ c : ℝ, c > 0 ∧ ∃ N₀ : ℕ, ∀ N : ℕ, N ≥ N₀ →
+      (f N : ℝ) ≥ (N : ℝ) * exp (-c * (log N) ^ (1 / 7 : ℝ)) := by
+  sorry
+
+/-- A set has no nontrivial solution to $x + 2y + 3z = x' + 2y' + 3z'$. -/
+def ZhaoSolutionFree (A : Finset ℕ) : Prop :=
+  ∀ x y z x' y' z', x ∈ A → y ∈ A → z ∈ A → x' ∈ A → y' ∈ A → z' ∈ A →
+    x + 2 * y + 3 * z = x' + 2 * y' + 3 * z' →
+    ({x, y, z} : Finset ℕ) = {x', y', z'}
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]: I don't think this is correct. Only `x = x' \and ...` would be a trivial solution

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 4]
```diff
@@ -32,12 +36,55 @@ def SolutionFree (A : Finset ℕ) : Prop :=
...
+
+/-- The maximum size of a Zhao-solution-free subset of $[N]$. -/
+noncomputable def g (N : ℕ) : ℕ :=
+  sSup {k : ℕ | ∃ A : Finset ℕ, A ⊆ range (N + 1) ∧ ZhaoSolutionFree A ∧ A.card = k}
+
+/-- From [Yufei Zhao]: Is there a subset of $\{1, \ldots, N\}$ of size
+$N^{1/3 - o(1)}$ with no nontrivial solutions to $x + 2y + 3z = x' + 2y' + 3z'$? -/
+@[category research open, AMS 5 11]
+theorem zhao_question :
+    ∀ ε : ℝ, ε > 0 → ∃ N₀ : ℕ, ∀ N : ℕ, N ≥ N₀ →
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]:
```suggestion
    ∀ ε : ℝ, ε > 0 → ∀^f N in atTop,
```

File: FormalConjectures/GreensOpenProblems/16.lean (hunk 3 above)
Comment (cyb3r17) [reply FormalConjectures/GreensOpenProblems/16.lean]: Hmmm, is it because of the co-efficients? I don't understand why.. 
I'll be making the changes assuming this is the case

Comment (YaelDillies) [reply FormalConjectures/GreensOpenProblems/16.lean]: Yes, because of the coefficients.

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 5]
```diff
@@ -0,0 +1,89 @@
...
+    ∃ A : Finset ℕ, A ⊆ range (N + 1) ∧ SolutionFree A ∧
+      A.card = answer(sorry) ∧
+      MaximalFor (fun B => B ⊆ range (N + 1) ∧ SolutionFree B) Finset.card A := by
+  sorry
+
+/-- From [Ruzsa] $f(N) \gg N^{1/2}$. -/
+@[category research open, AMS 5 11]
+theorem green_16_lower_bound :
+    ∃ c : ℝ, c > 0 ∧ ∃ N₀ : ℕ, ∀ N : ℕ, N ≥ N₀ →
+      (f N : ℝ) ≥ c * (N : ℝ) ^ (1 / 2 : ℝ) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]:
```suggestion
    (fun N \mapsto (N : ℝ) ^ (1 / 2 : ℝ)) \ll f := by
```
Same below

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 6]
```diff
@@ -0,0 +1,89 @@
...
+
+/-- The maximum size of a Zhao-solution-free subset of $[N]$. -/
+noncomputable def g (N : ℕ) : ℕ :=
+  sSup {k : ℕ | ∃ A : Finset ℕ, A ⊆ range (N + 1) ∧ ZhaoSolutionFree A ∧ A.card = k}
+
+/-- From [Yufei Zhao]: Is there a subset of $\{1, \ldots, N\}$ of size
+$N^{1/3 - o(1)}$ with no nontrivial solutions to $x + 2y + 3z = x' + 2y' + 3z'$? -/
+@[category research open, AMS 5 11]
+theorem zhao_question :
+    ∀ ε : ℝ, ε > 0 → ∀ᶠ N in atTop, (g N : ℝ) ≥ (N : ℝ) ^ (1 / 3 - ε) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]:
```suggestion
    \exists h : \Nat \to ℝ, Tendsto h atTop (\nhds 0) \and ∀ᶠ N in atTop, (g N : ℝ) ≥ (N : ℝ) ^ (1 / 3 - h N) := by
```
seems more accurate

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 7]
```diff
@@ -0,0 +1,89 @@
...
+/-- The maximum size of a Zhao-solution-free subset of $[N]$. -/
+noncomputable def g (N : ℕ) : ℕ :=
+  sSup {k : ℕ | ∃ A : Finset ℕ, A ⊆ range (N + 1) ∧ ZhaoSolutionFree A ∧ A.card = k}
+
+/-- From [Yufei Zhao]: Is there a subset of $\{1, \ldots, N\}$ of size
+$N^{1/3 - o(1)}$ with no nontrivial solutions to $x + 2y + 3z = x' + 2y' + 3z'$? -/
+@[category research open, AMS 5 11]
+theorem zhao_question :
+  ∃ h : ℕ → ℝ, Tendsto h atTop (nhds 0) ∧ ∀ᶠ N in atTop, (g N : ℝ) ≥ (N : ℝ) ^ (1 / 3 - h N) := by
+sorry
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]:
```suggestion
    ∃ h : ℕ → ℝ, Tendsto h atTop (nhds 0) ∧ ∀ᶠ N in atTop, (g N : ℝ) ≥ (N : ℝ) ^ (1 / 3 - h N) := by
  sorry
```

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 8]
```diff
@@ -0,0 +1,86 @@
...
+# Ben Green's Open Problem 16
+
+*References:*
+* [Ben Green's Open Problem 16](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.16)
+* [Ruzsa](I. Z. Ruzsa, Solving a linear equation in a set of integers. I. Acta Arith. 65 (1993), no. 3, 259–282.)
+* [Schoen and Sisask](T. Schoen and O. Sisask, Roth’s theorem for four variables and additive structures in sums of sparse sets Forum of Mathematics, Sigma (2016), Vol. 4, e5, 28 pages.)
+* [Yufei Zhao](Via Personal Communication with Ben Green)
+-/
+
+open Finset Real Filter
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]:
```suggestion
open Finset Real Filter Topology
```

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 9]
```diff
@@ -0,0 +1,86 @@
...
+
+/-- The maximum size of a Zhao-solution-free subset of $[N]$. -/
+noncomputable def g (N : ℕ) : ℕ :=
+  sSup {k : ℕ | ∃ A : Finset ℕ, A ⊆ range (N + 1) ∧ ZhaoSolutionFree A ∧ A.card = k}
+
+/-- From [Yufei Zhao]: Is there a subset of $\{1, \ldots, N\}$ of size
+$N^{1/3 - o(1)}$ with no nontrivial solutions to $x + 2y + 3z = x' + 2y' + 3z'$? -/
+@[category research open, AMS 5 11]
+theorem zhao_question :
+    ∃ h : ℕ → ℝ, Tendsto h atTop (nhds 0) ∧ ∀ᶠ N in atTop, (g N : ℝ) ≥ (N : ℝ) ^ (1 / 3 - h N) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]: then you can use the notation
```suggestion
    ∃ h : ℕ → ℝ, Tendsto h atTop (\nhds 0) ∧ ∀ᶠ N in atTop, (g N : ℝ) ≥ (N : ℝ) ^ (1 / 3 - h N) := by
```

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 10]
```diff
@@ -0,0 +1,86 @@
...
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Ben Green's Open Problem 16
+
+*References:*
+* [Ben Green's Open Problem 16](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.16)
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]: Your `#section.16` is broken. Can you fix by looking at what we do elsewhere in the repo?

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 11]
```diff
@@ -0,0 +1,86 @@
...
+-/
+
+open Finset Real Filter Topology
+
+namespace Green16
+
+/-- A set has no solution to $x + 3y = 2z + 2w$ in distinct elements. -/
+def SolutionFree (A : Finset ℕ) : Prop :=
+  ∀ x y z w, x ∈ A → y ∈ A → z ∈ A → w ∈ A →
+    ({x, y, z, w} : Finset ℕ).card = 4 →
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]:
```suggestion
    [x, y, z, w].Nodup →
```
is more appropriate

File: FormalConjectures/GreensOpenProblems/16.lean [hunk 12]
```diff
@@ -0,0 +1,86 @@
...
+* [Yufei Zhao](Via Personal Communication with Ben Green)
+-/
+
+open Finset Real Filter Topology
+
+namespace Green16
+
+/-- A set has no solution to $x + 3y = 2z + 2w$ in distinct elements. -/
+def SolutionFree (A : Finset ℕ) : Prop :=
+  ∀ x y z w, x ∈ A → y ∈ A → z ∈ A → w ∈ A →
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/16.lean]:
```suggestion
  ∀ x ∈ A, ∀ y ∈ A, ∀ z ∈ A, ∀ w ∈ A,
```
is more idiomatic

**Comment by cyb3r17** [comment]
This can be merged now, yes?

**Comment by YaelDillies** [comment]
Sorry, forgot to press the button 😅
